US07732604B2
Synthesis of 1-(quinolin-6-ylmethyl)-1H-[1,2,3]triazolo[4,5-b]pyrazine-6-carbonitrile
To a suspension of 6-[(6-bromo-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl]quinoline (1.0 g, 2.93 mmol) in DMAC (70 ml) were added zinc cyanide (413 mg, 3.52 mmol). The reaction mixture was degassed then PdCl2(dppf).CH2Cl2 (240 mg, 0.29 mmol) was added followed with triethylamine (0.828 ml) at R.T. The reaction mixture was degassed again. After heating at 85° C., the reaction mixture was filtered through a celite pad and washed with 5.0 ml of CH2Cl2. The solvents were concentrated under reduced pressure. The resulting residue was purified via flash column chromatography eluted with 1-3% 7N N3 in MeOH:CH2Cl2 to give the desired product (740 mg, 88%). 1H NMR (400 MHz, DMSO-d6) δ ppm 6.28 (s, 2H) 7.55 (dd, J=8.34, 4.29 Hz, 1H) 7.81 (dd, J=8.72, 2.15 Hz, 1H) 7.99-8.04 (m, 2H) 8.33-8.37 (m, 1H) 8.91 (dd, J=4.04, 1.77 Hz, 1H) 9.41 (s, 1H) APCI (Mz+1) 288.2

reactant | 6-[(6-bromo-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl]quinoline | 2.93 mmol, 1.0 g | BrC1=CN=C2C(=N1)N(N=N2)CC=2C=C1C=CC=NC1=CC2 | C14H9BrN6
reactant | CH2Cl2 | 0.29 mmol, 240 mg | C(Cl)Cl | CH2Cl2
reactant | triethylamine | 0.828 ml | C(C)N(CC)CC | C6H15N
solvent | DMAC | 70 ml | CC(=O)N(C)C | C4H9NO
catalyst | zinc cyanide | 3.52 mmol, 413 mg | [C-]#N.[Zn+2].[C-]#N
product | 1-(quinolin-6-ylmethyl)-1H-[1,2,3]triazolo[4,5-b]pyrazine-6-carbonitrile | 740 mg, 88% | N1=CC=CC2=CC(=CC=C12)CN1N=NC=2C1=NC(=CN2)C#N | C15H9N7
